US07985755B2
[4-(2,4-Diaminoquinazolin-5-yloxymethyl)piperidin-1-yl]naphthalen-1-ylmethanone (Example-017).
The amidation of 5-(piperidin-4-ylmethoxy)quinazoline-2,4-diamine (50 mg; 0.18 mmol) was carried out using 1-naphthoyl chloride (70.5 mg; 0.37 mmol) via Method AA to yield 152 mg. (96% yield). 1HNMR (400 MHz, DMSO-d6) δ 7.99 (m, 2H), 7.82 (m, 1H), 7.56 (m, 2H), 7.41 (m, 1H), 7.34 (m, 2H), 7.12 (br s, 2H), 6.76 (d, J=8.0 Hz, 1H), 6.54 (d, J=8.0 Hz, 1H), 5.94 (br s, 2H), 4.74 (t, J=12.0 Hz, 1H), 4.04 (d, J=6.0 Hz, 2H), 3.25 (br d, J=12.4 Hz, 1H), 3.00 (m, 2H), 2.22 (s, 1H), 1.97 (m, 1H), 1.63 (m, 1H), 1.44 (m, 1H), 1.3 (m, 1H). MS m/z (ESI) 428 (M+H)+.

reactant | 5-(piperidin-4-ylmethoxy)quinazoline-2,4-diamine | 0.18 mmol, 50 mg | N1CCC(CC1)COC1=C2C(=NC(=NC2=CC=C1)N)N | C14H19N5O
reactant | 1-naphthoyl chloride | 0.37 mmol, 70.5 mg | C1(=CC=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
product | [4-(2,4-Diaminoquinazolin-5-yloxymethyl)piperidin-1-yl]naphthalen-1-ylmethanone | 96% yield | NC1=NC2=CC=CC(=C2C(=N1)N)OCC1CCN(CC1)C(=O)C1=CC=CC2=CC=CC=C12 | C25H25N5O2
